data/mechanism_extracts/GreenChem/10.1039_D4GC01127A_sup_1.json
{"doi": "10.1039_D4GC01127A_sup_1", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical oxidative [3+2] annulation of 1,3-dicarbonyl indanones with styrenes/alkenes to form spirocyclic dihydrofuranones via radical intermediates", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of the 1,3-dicarbonyl (methyl 1-oxo-2,3-dihydro-1H-indene-2-carboxylate) to generate an α-carbonyl C-centered radical that adds to the alkene", "key_intermediates": [{"name": "α-carbonyl C-centered radical from indanone-2-carboxylate (1a)", "smiles": "O=C1c2ccccc2C[C]1C(=O)OC", "role": "reactive"}, {"name": "benzylic C-radical after addition to styrene/diphenylethylene", "smiles": null, "role": "transient"}, {"name": "benzylic carbocation (radical-polar crossover intermediate)", "smiles": null, "role": "reactive"}, {"name": "spirocyclic dihydrofuranone 3a (cyclized product incorporating 18O from H2-18O)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes the enolizable 1,3-dicarbonyl substrate 1a to an α-carbonyl radical, which adds across the alkene to give a benzylic C-radical; further single-electron oxidation at the anode yields a benzylic cation that is trapped by H2-18O / carbonyl oxygen to close the spirofuran ring.", "rate_determining_step": null, "probe_reagents": [{"name": "H2-18O", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "18O incorporation into product 3a (and downstream 4-18O), confirming water as the oxygen source in ring closure"}, {"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "TEMPO-adduct 6 isolated in 89.6% yield from reaction of 1a with styrene + TEMPO, trapping the α-carbonyl radical (and a styrene-derived adduct 7 also observed), supporting a radical pathway"}], "evidence_types_used": ["H/D_labeling", "intermediate_trap_TEMPO", "isolation_of_intermediate", "product_isotope_distribution"], "evidence_strength": "medium", "notes": "Two TEMPO adducts (6 and 7) are described: 6 corresponds to trapping of the α-carbonyl radical from 1a directly, while 7 corresponds to trapping after addition to styrene — together consistent with stepwise radical addition followed by oxidation (radical-polar crossover) and water-assisted cyclization."}
